US09278938B2
Under a nitrogen atmosphere, 6-bromo-N-methyl-2-naphthamide (10.0 g, 37.9 mmol) was added to tetrahydrofuran (250 mL), and to the obtained solution was added dropwise 2.0 mol/L isopropylmagnesium chloride tetrahydrofuran solution (18.9 mL) at room temperature. The obtained reaction mixture was cooled to −30° C., 1.65 mol/L n-butyllithium hexane solution (37.9 mL) was added dropwise thereto, and the mixture was stirred at the same temperature for 1 hr or more. To the reaction mixture was added dropwise a solution of 1-(phenylsulfonyl)-4-formyl-1H-imidazole (13.4 g, 56.8 mmol) in tetrahydrofuran (100 mL) at −20° C., and the mixture was stirred at the same temperature for 2 hr. The reaction mixture was warmed over 2 hr to 0° C., and 20 w/v % aqueous ammonium chloride solution (150 mL) was added dropwise thereto. The separated organic layer was concentrated to the volume of about 130 mL under reduced pressure to give a residue. To the obtained residue was added tetrahydrofuran (200 mL), and the mixture was concentrated to the volume of about 130 mL under reduced pressure to give a residue. To the obtained residue was added ethyl acetate (200 mL), and the mixture was concentrated to the volume of about 200 mL under reduced pressure. These operations were repeated three times to give a residue. To the obtained residue was added ethyl acetate to adjust the volume to about 200 mL. The obtained reaction mixture was stirred at room temperature for 2 hr or more to give crystals. The crystals was collected by filtration, and washed with ethyl acetate (100 mL) to give wet crystals. The obtained wet crystals were dried under reduced pressure at an outside temperature of 50° C. to give 6-(hydroxy(1-(phenylsulfonyl)-1H-imidazol-4-yl)methyl)-N-methyl-2-naphthamide (9.2 g, 21.8 mmol). yield 58%.

reactant | 6-bromo-N-methyl-2-naphthamide | 37.9 mmol, 10.0 g | BrC=1C=C2C=CC(=CC2=CC1)C(=O)NC | C12H10BrNO
reactant | isopropylmagnesium chloride tetrahydrofuran | 2.0 mol/L, 18.9 mL | O1CCCC1.C(C)(C)[Mg]Cl
reactant | n-butyllithium hexane | 1.65 mol/L, 37.9 mL | CCCCCC.C(CCC)[Li]
reactant | 1-(phenylsulfonyl)-4-formyl-1H-imidazole | 56.8 mmol, 13.4 g | C1(=CC=CC=C1)S(=O)(=O)N1C=NC(=C1)C=O | C10H8N2O3S
reactant | ammonium chloride | 150 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 6-(hydroxy(1-(phenylsulfonyl)-1H-imidazol-4-yl)methyl)-N-methyl-2-naphthamide | 21.8 mmol, 9.2 g, yield 58% | OC(C=1C=C2C=CC(=CC2=CC1)C(=O)NC)C=1N=CN(C1)S(=O)(=O)C1=CC=CC=C1 | C22H19N3O4S
